US07713994B2
2-Chloromethyl-4-methoxy-5-nitro-pyridine
A mixture of chloro-(4-methoxy-5-nitro-pyridin-2-yl)-acetic acid tert-butyl ester (2.98 g, 9.84 mole) and acetic acid (25 mL) is refluxed for 6 hours, cooled and evaporated. The residue is dissolved in dichloromethane, passed thru a pad of magnesol, evaporated to dryness and crystallized from 3:1 hexanes/ethyl acetate to give a light yellow solid, 1.78 g, (89%); MS (ES+): m/z 203.2, 205.2 (M+H).

reactant | chloro-(4-methoxy-5-nitro-pyridin-2-yl)-acetic acid tert-butyl ester | 9.84 mole, 2.98 g | C(C)(C)(C)OC(C(C1=NC=C(C(=C1)OC)[N+](=O)[O-])Cl)=O | C12H15ClN2O5
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 2-Chloromethyl-4-methoxy-5-nitro-pyridine | ClCC1=NC=C(C(=C1)OC)[N+](=O)[O-] | C7H7ClN2O3
